US05605910
A. 4-Benzyl-4-azatricyclo[5.2.2.02,6 ]undec-8-ene-3,5-dione-1-carboxamide
14.5 g (50 mmol) of 4-benzyl-1-cyano-4-azatricyclo[5.2.2.02,6 ]undec-8-ene-3,5-dione are dissolved in 25 ml of methylene chloride, 2.5 g of tetrabutylammonium hydrogen sulphate and 17.5 ml of 20% strength sodium hydroxide solution are added, and 24 ml of 30% strength H2O2 are added dropwise at 0° C. The mixture is stirred at 0° C. for 30 minutes and then overnight at room temperature and diluted with methylene chloride, and the organic phase is separated off and washed with sodium chloride solution. It is dried over MgSO4 and concentrated and the crystalline product is boiled up with xylene, any unreacted starting material dissolving. The product is filtered off hot with suction and dried in air.

reactant | 4-benzyl-1-cyano-4-azatricyclo[5.2.2.02,6 ]undec-8-ene-3,5-dione | 50 mmol, 14.5 g | C(C1=CC=CC=C1)N1C(C2C3(C=CC(C2C1=O)CC3)C#N)=O | C18H16N2O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | H2O2 | OO | H2O2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
catalyst | tetrabutylammonium hydrogen sulphate | 2.5 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 4-Benzyl-4-azatricyclo[5.2.2.02,6 ]undec-8-ene-3,5-dione-1-carboxamide | C(C1=CC=CC=C1)N1C(C2C3(C=CC(C2C1=O)CC3)C(=O)N)=O | C18H18N2O3
